US04491585
6.7 g (0.02 mol) of (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylic acid-chloride, dissolved in 10 ml of n-hexane, were added dropwise to a mixture of 40 ml of n-hexane, 1.5 g of sodium cyanide, 2 ml of water, 3.98 g (0.02 mol) of 2-formyl-6-phenoxy-pyridine and 0.5 g of tetrabutylammonium bromide at 20° to 25° C., while stirring, and the mixture was then stirred for 4 hours at 20° to 25° C. 100 ml of toluene were then added to the reaction mixture, and the latter was extracted by shaking twice with 60 ml of water. The organic phase was separated off and dried over magnesium sulphate, and the solvent was distilled off in a water jet vacuum. The last solvent residues were removed by incipient distillation for a short time at a bath temperature of 60° C./1 mm Hg. 6.4 g (77 % of theory) of cyano-(6-phenoxy-2-pyridinyl)-methyl (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-cyclopropanecarboxylate were obtained as a viscous yellow oil. The structure was established by the 1H-NMR spectrum.

reactant | (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylic acid-chloride | 0.02 mol, 6.7 g | Cl\C(=C/[C@@H]1C([C@H]1C(=O)Cl)(C)C)\C1=CC=C(C=C1)Cl | C14H13Cl3O
reactant | sodium cyanide | 1.5 g | [C-]#N.[Na+]
reactant | water | 2 ml | O | H2O
reactant | 2-formyl-6-phenoxy-pyridine | 0.02 mol, 3.98 g | C(=O)C1=NC(=CC=C1)OC1=CC=CC=C1 | C12H9NO2
solvent | n-hexane | 10 ml | CCCCCC | C6H14
catalyst | tetrabutylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | n-hexane | 40 ml | CCCCCC | C6H14
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | cyano-(6-phenoxy-2-pyridinyl)-methyl (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-cyclopropanecarboxylate | 6.4 g, 77 % | Cl\C(=C/[C@@H]1C([C@H]1C(=O)OC(C1=NC(=CC=C1)OC1=CC=CC=C1)C#N)(C)C)\C1=CC=C(C=C1)Cl | C27H22Cl2N2O3
